US08110585B2
(2-methyl[1,2,4]triazolo[1,5-a]pyridin-8-yl)methanol
To a solution of 1-amino-3-(hydroxymethyl)pyridinium 2,4-dinitrobenzenolate (100 g, 323 mmol) in acetonitrile (1.08 L), was added 2 N sodium hydroxide (485 mL) at room temperature, and the mixture was stirred for 12 hr. Acetonitrile was evaporated under reduced pressure, and the residual aqueous solution was extracted with 3 times with chloroform. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by recrystallization (ethyl acetate/hexane) to give the title compound (14.0 g, yield 29%).

reactant | 1-amino-3-(hydroxymethyl)pyridinium 2,4-dinitrobenzenolate | 323 mmol, 100 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])[O-].N[N+]1=CC(=CC=C1)CO
reactant | sodium hydroxide | 2 N, 485 mL | [OH-].[Na+]
solvent | acetonitrile | 1.08 L | C(C)#N | C2H3N
product | (2-methyl[1,2,4]triazolo[1,5-a]pyridin-8-yl)methanol | 14.0 g, yield 29% | CC1=NN2C(C(=CC=C2)CO)=N1 | C8H9N3O
